US04178387
A mixture of 5.0 g (15.2 mmol) of 1-(2,6-diethyl-4-nitrophenyl)-3-methylamidinourea hydrochloride and 5% paladium on carbon (500 mg) in absolute ethanol (175 ml) containing concentrated hydrochloric acid (2 ml) is shaken under an atmosphere of hydrogen (50 psi) for thirty minutes. The mixture is filtered through a Celite pad. To the filtrate is added HCl/MeOH and the alcohol is removed under vacuum to give a yellow foam which is crystallized from methanol-ethyl acetate to give 1-(4-amino-2,6-diethylphenyl)-3-methylamidinourea dihydrochloride, m.p. 218°-222° C. (dec).

reactant | 1-(2,6-diethyl-4-nitrophenyl)-3-methylamidinourea hydrochloride | 15.2 mmol, 5.0 g | Cl.C(C)C1=C(C(=CC(=C1)[N+](=O)[O-])CC)NC(=O)NC(NC)=N
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | ethanol | 175 ml | C(C)O | C2H6O
product | 1-(4-amino-2,6-diethylphenyl)-3-methylamidinourea dihydrochloride | Cl.Cl.NC1=CC(=C(C(=C1)CC)NC(=O)NC(NC)=N)CC | InChI=1S/C13H21N5O.2ClH/c1-4-8-6-10(14)7-9(5-2)11(8)17-13(19)18-12(15)16-3;;/h6-7H,4-5,14H2,1-3H3,(H4,15,16,17,18,19);2*1H
